US06906053B2
2-(2,5-dioxo-4-imidazolidinyl)-N-{4-[(2-methyl-4-quinolinyl)methoxy]phenyl}acetamide
Commercially available (+/−)hydantoin-5-acetic acid (100 mg, 0.63 mmol) and 4-[(2-methyl-4-quinolinyl)methoxy]-aniline bis-HCl salt (213 mg, 0.63 mmol) were warmed in 1 mL dry DMSO and coupled using GENERAL COUPLING METHOD A. Purified on silica gel using 5% MeOH in EtOAc to give 116 mg (46%) of a white waxy solid. MS found:(M+H)+=406.

reactant | (+/−)hydantoin-5-acetic acid | 0.63 mmol, 100 mg | N1C(=O)NC(=O)C1CC(=O)O | C5H6N2O4
reactant | 4-[(2-methyl-4-quinolinyl)methoxy]-aniline bis-HCl salt | 0.63 mmol, 213 mg | Cl.Cl.CC1=NC2=CC=CC=C2C(=C1)COC1=CC=C(N)C=C1
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
product | 2-(2,5-dioxo-4-imidazolidinyl)-N-{4-[(2-methyl-4-quinolinyl)methoxy]phenyl}acetamide | O=C1NC(C(N1)CC(=O)NC1=CC=C(C=C1)OCC1=CC(=NC2=CC=CC=C12)C)=O | C22H20N4O4
